* PWMexample.net
* calling with:
* ngspice -r ngs.raw -b PWMexample.net

.model input_vector d_source(input_file = "pwmexample_data.text")
.model dac1 dac_bridge(out_low = 0.7 out_high = 3.5 out_undef = 2.2
+ input_load = 5.0e-12 t_rise = 1e-9 t_fall = 1e-9)


*==============  Begin SPICE netlist of main design ============
A1 [3 4] input_vector
abridge1 [3] [33] dac1
abridge2 [4] [44] dac1
R1 33 1 1K
C1 0 1 10n

.control
save 33 44 1
tran 1us 50m
wrdata $inputdir/fil2.dat V(33) v(44) V(1)
plot  v(44) V(1) xlimit 22.9m 23m
.endc
